US08957203B2
7-methoxy-1H-benzo[d][1,3]oxazine-2,4-dione (0.5 g, 2.59 mmol), 4-isopropoxybenzaldehyde (0.425 g, 2.59 mmol), and ammonium acetate (0.239 g, 3.11 mmol) were dissolved in EtOH (1 mL) and heated at 80° C. for 0.5 h. The solvent was removed under vacuum and the crude material was purified by silica gel chromatography using a gradient of 40-100% EtOAc in Hexanes. The product fractions were collected and concentrated under vacuum to give 2-(4-isopropoxyphenyl)-7-methoxy-1,2-dihydroquinazolin-4-ol (685 mg, 85% yield). MS: MS m/z 313.2 (M++1).

reactant | 7-methoxy-1H-benzo[d][1,3]oxazine-2,4-dione | 2.59 mmol, 0.5 g | COC=1C=CC2=C(NC(OC2=O)=O)C1 | C9H7NO4
reactant | 4-isopropoxybenzaldehyde | 2.59 mmol, 0.425 g | C(C)(C)OC1=CC=C(C=O)C=C1 | C10H12O2
reactant | ammonium acetate | 3.11 mmol, 0.239 g | C(C)(=O)[O-].[NH4+]
solvent | EtOH | 1 mL | CCO | C2H6O
product | 2-(4-isopropoxyphenyl)-7-methoxy-1,2-dihydroquinazolin-4-ol | 685 mg, 85% yield | C(C)(C)OC1=CC=C(C=C1)C1NC2=CC(=CC=C2C(=N1)O)OC | C18H20N2O3
